US09387200B2
a) 4-Hydroxy-3-methyl-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester
The title compound was synthesized in analogy Example 6 from 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester and trimethylsilylacetylene: MS (m/z) 363.2 (M+1).

reactant | 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C)O | C12H13BrN2O3S
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | 4-Hydroxy-3-methyl-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SN=C2C)O | C17H22N2O3SSi
